US07411072B2
5-(3-Fluoro-5-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 219, below, and using 3-fluoro-5-methoxyphenylboronic acid (300 mg, 1.76 mmol) and 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (450 mg, 1.6 mmol)provides 275 mg of title compound in 52% yield as a pale yellow oil. HPLC shows 97% purity.

reactant | 3-fluoro-5-methoxyphenylboronic acid | 1.76 mmol, 300 mg | FC=1C=C(C=C(C1)OC)B(O)O | C7H8BFO3
reactant | 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1.6 mmol, 450 mg | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
product | 5-(3-Fluoro-5-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 275 mg, 52% yield | FC=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=C(C1)OC | C23H19FO
